US06716851B2
4-(1,3,4-Triazol-1-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine (50 mg, 0.192 mmol) and 1-amino-1,3,4-triazole (24 mg, 0.288 mmol) similar to Example 190 and was isolated as a solid. 1H NMR (CDCl3): 9.61 (brs, 1H), 8.71-8.66 (m, 4H), 7.41 (m, 2H), 6.69 (s, 1H), 5.18 (s, 2H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 1-amino-1,3,4-triazole | 0.288 mmol, 24 mg | NN1C=NN=C1 | C2H4N4
product | 4-(1,3,4-Triazol-1-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | N1(C=NN=C1)NC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C12H8F3N7
